US06777414B1
Ethyl 2-fluoro-5-nitrobenzoate (0.63 g) was dissolved in ethanol (10 ml), and 10% Pd—C (0.064 g) was added to the solution. The mixture was subjected to catalytic reduction at room temperature for 7 hr. The reaction solution was filtered through Celite, and was washed with ethanol. The solvent was then removed by distillation under the reduced pressure to give 0.55 g (100%) of ethyl 5-amino-2-fluorobenzoate.

reactant | Ethyl 2-fluoro-5-nitrobenzoate | 0.63 g | FC1=C(C(=O)OCC)C=C(C=C1)[N+](=O)[O-] | C9H8FNO4
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd—C | 0.064 g | [Pd] | Pd
product | ethyl 5-amino-2-fluorobenzoate | 0.55 g, 100% | NC=1C=CC(=C(C(=O)OCC)C1)F | C9H10FNO2
